US08183264B2
(3-[1,3]Dioxolan-2-yl-phenyl)-(5-methyl-thiophen-2-yl)-methanol
To a solution of THF (20 mL), 2-(3-bromophenyl)-1,3-dioxolane (2.7 g) and 1,2-dibromoethane (150 mg) was added magnesium (270 mg), which was heated to reflux for 10 minutes. The reaction mixture was cooled to 0° C., and a solution of 5-methyl-2-thiophencarbaldehyde (1.0 g) and THF (5 mL) was added thereto under stirring. The reaction solution was returned to room temperature and stirred for 10 minutes. Water was added to the reaction solution, which was then extracted with ethyl acetate. The solvent was evaporated from the organic layer under a reduced pressure, and the residue was purified by silica gel chromatography (heptane:ethyl acetate=2:1) to obtain the titled compound (1.1 g).

reactant | 2-(3-bromophenyl)-1,3-dioxolane | 2.7 g | BrC=1C=C(C=CC1)C1OCCO1 | C9H9BrO2
reactant | 1,2-dibromoethane | 150 mg | BrCCBr | C2H4Br2
reactant | magnesium | 270 mg | [Mg] | Mg
reactant | 5-methyl-2-thiophencarbaldehyde | 1.0 g | CC1=CC=C(S1)C=O | C6H6OS
solvent | Water | O | H2O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | (3-[1,3]Dioxolan-2-yl-phenyl)-(5-methyl-thiophen-2-yl)-methanol | 1.1 g | O1C(OCC1)C=1C=C(C=CC1)C(O)C=1SC(=CC1)C | C15H16O3S
